US07183414B2
The compound, (1-{2-[5-(3-Methyl-oxetan-3-ylmethoxy)-benzoimidazol-1-yl]-quinolin-8-yl}-piperidin-4-yl)-carbamic acid tert-butyl ester (2 g, 3.68 mmol, 1 equivalent), sodium t-butoxide (1.77 g, 18.4 mmol, 5 equivalents), 2-methyltetrahydrofuran (30 mL, 15 volumes), and water (66 mL, 1 equivalent) were added to a 100 mL round bottom flask. The mixture was heated to reflux and held at reflux for 24–30 hours. At reaction completion, the mixture was cooled to 20–30° C. The reaction was quenched into a 20% citric acid solution (10 volumes) and stirred at 20–30° C. for 30–60 minutes. The citrate salt precipitated out of solution during this time. A 50% sodium hydroxide solution (˜1 weight equivalent) was charged to basify the reaction mixture (pH 10–12). The layers were separated at 30–40° C. The aqueous layer was washed with ethyl acetate (10 volumes) and then the combined organics were concentrated to low volume. Ethyl acetate (14 mL, 7 volumes) was charged and the slurry was allowed to granulate for 10–20 hours. The solids were filtered and 1-{2-[5-(3-Methyl-oxetan-3-ylmethoxy)-benzoimidazol-1-yl]-quinolin-8-yl}-piperidin-4-ylamine (1.4 g, 86% yield) was isolated.

reactant | (1-{2-[5-(3-Methyl-oxetan-3-ylmethoxy)-benzoimidazol-1-yl]-quinolin-8-yl}-piperidin-4-yl)-carbamic acid tert-butyl ester | 3.68 mmol, 2 g, 1 equivalent | C(C)(C)(C)OC(NC1CCN(CC1)C=1C=CC=C2C=CC(=NC12)N1C=NC2=C1C=CC(=C2)OCC2(COC2)C)=O | C31H37N5O4
reactant | sodium t-butoxide | 18.4 mmol, 1.77 g, 5 equivalents | CC(C)([O-])C.[Na+]
reactant | water | 66 mL, 1 equivalent | O | H2O
solvent | 2-methyltetrahydrofuran | 30 mL | CC1OCCC1 | C5H10O
product | 1-{2-[5-(3-Methyl-oxetan-3-ylmethoxy)-benzoimidazol-1-yl]-quinolin-8-yl}-piperidin-4-ylamine | 1.4 g, 86% yield | CC1(COC1)COC1=CC2=C(N(C=N2)C2=NC3=C(C=CC=C3C=C2)N2CCC(CC2)N)C=C1 | C26H29N5O2
